US05994366
A mixture of 60 g of 3-(4chlorophenyl)-3-methyl-1(3H)-isobenzofuranone and 257 g of ethylenediamine p-toluenesulfonate (166 ml ethylenediamine treated with 470 g p-toluenesulfonic acid and crystallised from 2-propanol) was heated to 200° C. and kept at this temperature overnight. The reaction mixture was allowed to cool and 850 ml of an aqueous 1N hydrochloride solution were added. The resulting mixture was extracted with 600 ml of chloroform. The organic layer was washed with 700 ml of an aqueous 1N potassium hydroxide solution, dried and evaporated in vacuo. The residue was crystallised from a 1:3 mixture of diethyl ether and hexane at -20° C. to give 46 g of (rac)-6-(4-chlorophenyl)-2,3,5,6-tetrahydroimidazo[2,1-a]isoquinoline as a yellow solid. The hydrochloride salt was prepared by the addition of a solution of hydrochloric acid in methanol resulting in (rac)6-(4-chlorophenyl)-2,3,5,6-tetrahydroimidazo[2,1-a]isoquinoline hydrochloride, melting point 230° C.

reactant | 3-(4chlorophenyl)-3-methyl-1(3H)-isobenzofuranone | 60 g | ClC1=CC=C(C=C1)C1(OC(C2=CC=CC=C12)=O)C | C15H11ClO2
reactant | ethylenediamine p-toluenesulfonate | 166 ml, 257 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CN)N
reactant | hydrochloride | 1N | Cl | ClH
product | (rac)-6-(4-chlorophenyl)-2,3,5,6-tetrahydroimidazo[2,1-a]isoquinoline | 46 g | ClC1=CC=C(C=C1)C1CN2C(C3=CC=CC=C13)=NCC2 | C17H15ClN2
